US06858621B2
Impure 7-amino-6-hydroxy-6-trifluoromethyl-2,3,5,6-tetrahydro-1-oxa-3a-aza-phenalen-4-one (0.2 g) was heated to 140° C. for 1.5 hours then stirred at room temperature overnight. The reaction mixture was poured onto ice, made basic with 1M sodium carbonate, extracted three times with ethyl acetate, dried the organic extracts over magnesium sulfate, filtered, evaporated to a yellow solid. The yellow solid (crude material) was purified using the Biotage 40S system eluting with 30% ethyl acetate/hexane to yield 7-amino-6-trifluoromethyl-2,3-dihydro-1-oxa-3a-aza-phenalen-4-one

reactant | 7-amino-6-hydroxy-6-trifluoromethyl-2,3,5,6-tetrahydro-1-oxa-3a-aza-phenalen-4-one | 0.2 g | NC1=C2C(CC(N3CCOC(C=C1)=C32)=O)(C(F)(F)F)O | C12H11F3N2O3
reactant | sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
product | 7-amino-6-trifluoromethyl-2,3-dihydro-1-oxa-3a-aza-phenalen-4-one | NC1=C2C(=CC(N3CCOC(C=C1)=C32)=O)C(F)(F)F | C12H9F3N2O2
